US04587341
D. 2-Methoxy-4-methyl-7-bromoquinoline
A mixture of 3.00 g (12.00 mM) of 2-chloro-4-methyl-7-bromoquinoline and 0.63 g (12.00 mM) of sodium methoxide was heated to reflux in 30 mL of dry methanol for 48 h. The methanol was then removed in vacuo, and the resultant concentrate was taken up in methylene chloride. This methylene chloride solution was washed repeatedly with saturated sodium chloride. After drying (MgSO4), solvent removal, and recrystallisation from toluene, 2.63 g (87%) of the product was obtained as white crystals: mp 58°-60° C.

reactant | 2-chloro-4-methyl-7-bromoquinoline | 12.00 mM, 3.00 g | ClC1=NC2=CC(=CC=C2C(=C1)C)Br | C10H7BrClN
reactant | sodium methoxide | 12.00 mM, 0.63 g | C[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-Methoxy-4-methyl-7-bromoquinoline | 2.63 g, 87% | COC1=NC2=CC(=CC=C2C(=C1)C)Br | C11H10BrNO
